US07186718B2
(v) 1-(4-Chlorobenzyl)-4-piperidinone
To a solution of 4-piperidine trifluoroacetate obtained from step (iv) (853 mg, 4.0 mmol) in DMF was added triethylamine (2.66 mL, 19.2 mmol), followed by 4-chlorobenzyl chloride (753 mg, 4.8 mmol) and the reaction mixture was stirred overnight at room temperature. The volatiles were removed in vacuo, residue was dissolved in ethylacetate, washed with water (H2O), organic layer was dried over sodium sulphate (Na2SO4), filtered and concentrated. The residue was purified by silica gel flash chromatography to give the subtitled compound (350 mg).

reactant | triethylamine | 19.2 mmol, 2.66 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzyl chloride | 4.8 mmol, 753 mg | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | DMF | CN(C)C=O | C3H7NO
product | 1-(4-Chlorobenzyl)-4-piperidinone | 350 mg | ClC1=CC=C(CN2CCC(CC2)=O)C=C1 | C12H14ClNO
